US07291624B2
3.19 g (14 mmol) of 5-bromo-2,4-dichloropyrimidine is mixed with 8.06 g (63 mmol) of 4,4,4-trifluorobutanol, and 0.74 ml (8.4 mmol) of trifluoromethanesulfonic acid is slowly added to it. The reaction mixture is stirred overnight at room temperature and then poured into water. The mixture is extracted by means of ethyl acetate, the combined organic phases are dried on MgSO2, and the solvent is evaporated by means of underpressure. The product is always contaminated with varying amounts of 2,4-bisalkoxypyrimidine. The remaining material is therefore purified by means of gradient chromatography with silica gel as a carrier medium (eluant: hexane and hexane/ethyl acetate at a 9:1 ratio). This process results in a yield of 1.70 g (38%) and also yields 1.93 g (34%) of 5-bromo-2,4-bis-(4,4,4-trifluorobutoxy)pyrimidine (starting compound).

reactant | 5-bromo-2,4-dichloropyrimidine | 14 mmol, 3.19 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | 4,4,4-trifluorobutanol | 63 mmol, 8.06 g | FC(CCCO)(F)F | C4H7F3O
reactant | trifluoromethanesulfonic acid | 8.4 mmol, 0.74 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | water | O | H2O
product | 5-bromo-2,4-bis-(4,4,4-trifluorobutoxy)pyrimidine | 1.93 g, 34% | BrC=1C(=NC(=NC1)OCCCC(F)(F)F)OCCCC(F)(F)F | C12H13BrF6N2O2
